* D:\PES\Sem 4\Digital VLSI design\DVLSI-Project-3-bit-ALU\Siddharth\ADDER_TB.asc
XX1 A B C Cout Sum adder
V1 A 0 PULSE(5 0 0 1n 1n 1m 2m)
V2 B 0 PULSE(5 0 0 1n 1n 2m 4m)
V3 C 0 PULSE(5 0 0 1n 1n 4m 8m)

* block symbol definitions
.subckt adder A B Cin Cout Sum
M1 Vdd A N002 Vdd PMOS
M2 Vdd B N002 Vdd PMOS
M3 Vdd B N003 Vdd PMOS
M4 N003 A N006 N003 PMOS
M5 N002 Cin N006 N002 PMOS
M6 Vdd A N004 Vdd PMOS
M7 Vdd B N004 Vdd PMOS
M8 Vdd Cin N004 Vdd PMOS
M9 Vdd Cin N001 Vdd PMOS
M10 N005 A N007 Vdd PMOS
M11 N007 A N011 N007 PMOS
M12 N004 N006 N007 N004 PMOS
M13 N006 Cin N010 N010 NMOS
M14 N006 A N009 N009 NMOS
M15 N010 A 0 0 NMOS
M16 N010 B 0 0 NMOS
M17 N009 B 0 0 NMOS
M18 N007 N006 N008 N008 NMOS
M19 N008 A 0 0 NMOS
M20 N008 B 0 0 NMOS
M21 N008 Cin 0 0 NMOS
M22 N012 Cin 0 0 NMOS
M23 N001 B N005 Vdd PMOS
M24 N011 B N012 N007 PMOS
V1 Vdd 0 5
XX1 N006 Cout invert
XX2 N007 Sum invert
.ends adder

.subckt invert A A_
M2 A_ A 0 0 NMOS
M3 N001 A A_ N001 PMOS
V1 N001 0 5
.ends invert

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Administrator\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 8m 0
.backanno
.end
